US04723006
3.56 Parts of 2-amino-4-chloro-6-chloromethylpyrimidine was dissolved in 53 parts of dry diethyl ether and dry hydrogen chloride was bubbled through the solution, with stirring, until no further solid precipitated the solid was filtered, washed with ether and dried in vacuo. Recrystallisation from acetone gave 2-amino-4-chloro-6-chloromethyl-pyrimidine hydrochloride m.p. 145°-150° C. (decomposition).

reactant | 2-amino-4-chloro-6-chloromethylpyrimidine | NC1=NC(=CC(=N1)Cl)CCl | C5H5Cl2N3
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hydrogen chloride | Cl | ClH
product | 2-amino-4-chloro-6-chloromethyl-pyrimidine hydrochloride | Cl.NC1=NC(=CC(=N1)Cl)CCl | InChI=1S/C5H5Cl2N3.ClH/c6-2-3-1-4(7)10-5(8)9-3;/h1H,2H2,(H2,8,9,10);1H
